US06770648B2
2-(2,6-Dichloro-4-nitro-phenylsulfanyl)-napthalene was synthesized (100%) from 3,4,5-trichloronitrobenzene (Acros) and napthalene-2-thiol (Avocado) in a similar manner as described in example 1 using DMSO as solvent instead of DMF.

reactant | 3,4,5-trichloronitrobenzene | ClC=1C=C(C=C(C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | napthalene-2-thiol | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2,6-Dichloro-4-nitro-phenylsulfanyl)-napthalene | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)SC1=CC2=CC=CC=C2C=C1 | C16H9Cl2NO2S
